US08486970B2
To a mixed liquid of 3.10 g of benzyl[(1R)-2-hydroxy-1-{[(methylsulfonyl)amino]methyl}ethyl]carbamate and 50 ml of ethanol was added 500 mg of 5% palladium/carbon, followed by stirring at room temperature for 2 hours under a hydrogen atmosphere. The palladium/carbon was separated by filtration and the solvent was then evaporated to obtain 1.72 g of N-[(2R)-2-amino-3-hydroxypropyl]methanesulfonamide as a colorless oily substance.

reactant | benzyl[(1R)-2-hydroxy-1-{[(methylsulfonyl)amino]methyl}ethyl]carbamate | 3.10 g | C(C1=CC=CC=C1)OC(N[C@@H](CO)CNS(=O)(=O)C)=O | C12H18N2O5S
catalyst | palladium/carbon | 500 mg | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-[(2R)-2-amino-3-hydroxypropyl]methanesulfonamide | 1.72 g | N[C@H](CNS(=O)(=O)C)CO | C4H12N2O3S
